US08685977B2
2-methoxy-4-(trifluoromethyl)phenol
To a solution of 2-methoxy-4-(trifluoromethyl)benzaldehyde (1.0 g, 4.90 mmol) in dichloromethane (15 mL) was added m-chloroperoxybenzoic acid (1.48 g, 6.61 mmol). The resulting clear solution was stirred for 16 hours at room temperature. Overnight a white precipitate had formed that was filtered off. The filtrate was evaporated to a white solid, which was dissolved in ethyl acetate (25 mL) and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over sodium sulphate, and evaporated to a white solid. This solid was redissolved in methanol (15 mL), and treated with triethylamine (2 mL, 10 mmol). After stirring for two hours, the mixture was concentrated in vacuo. The residue was taken up in ethyl acetate (25 mL), and washed with 1N citric acid solution (20 mL) and brine (20 mL). The organic layer was dried over sodium sulphate, and evaporated to an oil. This crude material was then purified by eluting through a short pad of silica with dichloromethane, which afforded the title compound as a clear oil (536 mg, 57%)

reactant | 2-methoxy-4-(trifluoromethyl)benzaldehyde | 4.90 mmol, 1.0 g | COC1=C(C=O)C=CC(=C1)C(F)(F)F | C9H7F3O2
reactant | m-chloroperoxybenzoic acid | 6.61 mmol, 1.48 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | triethylamine | 10 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-methoxy-4-(trifluoromethyl)phenol | 536 mg, 57% | COC1=C(C=CC(=C1)C(F)(F)F)O | C8H7F3O2
